US08541445B2
Step 6: 2-(2-(1-trityl-1H-pyrazolo[3,4-b]pyridin-4-yl)thiazol-4-yl)ethanenitrile
A mixture of 2-(2-bromothiazol-4-yl)acetonitrile (575 mg, 2.832 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-trityl-pyrazolo[3,4-b]pyridine (1.840 g, 3.398 mmol), Na2CO3 (4.248 mL of 2 M, 8.496 mmol) and tetrakis(triphenylphosphine) Palladium(0) (130.9 mg, 0.1133 mmol) was heated in the microwave at 150° C. for 20 minutes. The reaction mixture was treated with water/EtOAc and extracted twice. The organics were dried (MgSO4), filtered, concentrated and purified (1:1 Petroleum ether/EtOAc,). The mixture was recolumned (Petroleum ether) to give the desired pure product (827 mg, 60% Yield). 1H NMR (CDCl3, 400 MHz) δ 4.04 (2H, s), 7.47 (2H, m), 8.34 (1H, m), 8.75 (1H, m); MS (ES+) 484.12

reactant | 2-(2-bromothiazol-4-yl)acetonitrile | 2.832 mmol, 575 mg | BrC=1SC=C(N1)CC#N | C5H3BrN2S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-trityl-pyrazolo[3,4-b]pyridine | 3.398 mmol, 1.840 g | CC1(OB(OC1(C)C)C1=C2C(=NC=C1)N(N=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C | C31H30BN3O2
reactant | Na2CO3 | 8.496 mmol, 2 M, 4.248 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine) Palladium(0) | 0.1133 mmol, 130.9 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water EtOAc | O.CCOC(=O)C
product | 2-(2-(1-trityl-1H-pyrazolo[3,4-b]pyridin-4-yl)thiazol-4-yl)ethanenitrile | 827 mg, 60% Yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=CC=2C1=NC=CC2C=2SC=C(N2)CC#N | C30H21N5S
